US06635657B1
A. Methyl 2-Fluoro-5-nitrobenzoate
A solution of 2-fluoro-5-nitrobenzoic acid (200 mg, 1.08 mmol) in 0.7 M HCl in methanol was stirred for 5 h. The mixture was concentrated yielding 210 mg (99%) of the title compound; which was used without further purification.

reactant | 2-fluoro-5-nitrobenzoic acid | 1.08 mmol, 200 mg | FC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | methanol | CO | CH4O
solvent | HCl | 0.7 M | Cl | ClH
product | Methyl 2-Fluoro-5-nitrobenzoate | 210 mg, 99% | FC1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C8H6FNO4
